US05981533
4-Benzylamino-3-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine
Under a nitrogen atmosphere, a mixture of 1 g (3.46 mmol) of 3-(3-chloro-phenylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole and 10 ml of benzylamine is stirred for 3 hours at 120° C. and then concentrated by evaporation under a HV. The crystalline residue is digested in 10 ml of acetonitrile, cooled to 0° C. and filtered and the filter residue is recrystallized from 35 ml of acetonitrile, yielding the title compound; m.p. 216-218° C.

reactant | 3-(3-chloro-phenylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole | 3.46 mmol, 1 g | ClC=1C=C(C=CC1)NC1=NNC(=C1C#N)N=CN(C)C | C13H13ClN6
reactant | benzylamine | 10 ml | C(C1=CC=CC=C1)N | C7H9N
product | 4-Benzylamino-3-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)NC1=C2C(=NC=N1)NN=C2NC2=CC(=CC=C2)Cl | C18H15ClN6
